US07638629B2
a) (±)-(4-Isopropylphenyl){1-[4-(trifluoromethyl)phenyl]but-3-en-1-yl}amine
Lanthanum triflate (0.141 g, 0.24 mmol, 2 mol %) and benzoic acid (1.49 g, 12.2 mmol) were dissolved in CH3CN (20 ml) and the suspension was stirred under nitrogen until dissolved. 4-(Trifluoromethyl)benzaldehyde (2.12 g, 12.2 mmol) was added followed by 4-isopropylaniline (1.65 g). Allyl(tributyl)stannane (4.54 ml, 14.6 mmol) was then added and the mixture was stirred at room temperature overnight. The mixture was then quenched with NaOH (2M, 20 ml) and extracted into DCM (3×100 ml). The combined extracts were dried (MgSO4) and the solvent was removed in vacuo to yield the crude homoallylic amine product. This was purified by chromatography on silica using 10-30% ether in hexane as eluant to yield the product as a colourless oil (3.65 g, 90%). 1H NMR (500 MHz, CDCl3) δ: 1.16 (6H, dd, J 1.3, 6.9), 2.42-2.48 (1H, m), 2.56-2.62 (1H, m), 2.71-2.79 (1H, qn, J 6.7), 4.07 (1H, s), 4.38 (1H, dd, J 4.9, 8.1), 5.18 (2H, m), 5.69-5.77 (1H, m), 6.40 (2H, d, J 8.4), 6.95 (2H, d, J 8.5), 7.49 (2H, d, J 8.1), 7.57 (2H, d, J 8.1); M/Z (ES+) 334 (MH+).

reactant | benzoic acid | 12.2 mmol, 1.49 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 4-(Trifluoromethyl)benzaldehyde | 12.2 mmol, 2.12 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 4-isopropylaniline | 1.65 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | Allyl(tributyl)stannane | 14.6 mmol, 4.54 ml | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | CH3CN | 20 ml | CC#N | C2H3N
catalyst | Lanthanum triflate | 0.24 mmol, 0.141 g | [O-]S(=O)(=O)C(F)(F)F.[La+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
product | (±)-(4-Isopropylphenyl){1-[4-(trifluoromethyl)phenyl]but-3-en-1-yl}amine | 3.65 g, 90% | C(C)(C)C1=CC=C(C=C1)NC(CC=C)C1=CC=C(C=C1)C(F)(F)F | C20H22F3N
